Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
L hand swelling and erythema, R knee swelling  
 
Major Surgical or Invasive Procedure:
___ L hand debridement and silicone implant removal
___ R prosthetic knee washout and liner exchange

 
History of Present Illness:
___ woman with past medical history of rheumatoid 
arthritis (on MTX/toclizumab/prednisone), s/p bilateral joint 
replacements of ___ her left hand as well as bilateral total knee 
replacements, GERD, osteoporosis, who presents with progression 
of L hand cellulitis despite outpatient antibiotics and new R 
knee swelling/pain.

She reports left hand swelling, erythema, and pain for the last 
48 hours. She was seen by her rheumatologist ___ who prescribed 
Keflex for presumed cellulitis. She had some improvement ___ pain 
___ her left hand pain with antibiotics, but no improvement ___ 
swelling or erythema. Then, yesterday ___, she began to notice 
swelling and pain ___ her right knee. She describes the pain as 
posterior and radiating to the calf. 

No fevers, chills, N/V. No injury to the hand or knee. She says 
her RA has been under good control and has not had a flare ___ 
many years. She presented to ___, where she had 
leukocytosis, elevated CRP, but vital signs otherwise stable. 
She was started on IV vancomycin/ ceftriaxone for presumed 
cellulitis and transferred to ___ for hand surgery evaluation. 


___ our ED, patient was evaluated by hand surgery, who 
recommended OR ___ for debridement. She also underwent R knee 
arthrocentesis with 88k PMNs, concerning for septic arthritis 
given her symptoms. She was continued on IV vancomycin.
 
___ the ED:  
- Initial vital signs were notable for: 98.1 140 148/88 18 97% 
RA 
 
- Exam notable for:  
LUE: significant swelling and erythema of the dorsal aspect of 
her L wrist that is well demarcated; warm and tender; no 
fusiform swelling of digits, flexor sheath tendon, or 
significant pain with extension  
RLE: mild swelling ___ RLE but full ROM

- Labs were notable for: WBC 20.1 (16% bands), plt 116, CRP 
68.9, Cr 0.9, lactate 1.9; Knee joint fluid: 88k WBC, 18k RBCs, 
further studies pending  

- Studies performed include: None. X-ray images of L hand and R 
knee at ___ (see below).  
 
- Patient was given: IV vancomycin

- Consults: hand: admission for IV abx; ortho: joint fluid w/ 
c/f septic joint -> admission for IV ABX  

Vitals on transfer: 98.3 95 114/64 24 93% RA
  
Upon arrival to the floor, patient corroborates history as 
above. She has ongoing left hand swelling/erythema as well as R 
knee pain/swelling. No fevers/chills, N/V.  

REVIEW OF SYSTEMS: Complete ROS obtained and is otherwise 
negative. 
 
Past Medical History:
- Advanced Rheumatoid Arthritis s/p bilateral hand joint 
replacements and bilateral total knee replacement 
- GERD
- Osteoporosis

 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
======================
VITALS:  ___ 1548 Temp: 98.1 PO BP: 110/75 HR: 82 RR: 18 O2 
sat: 95% O2 delivery: 2L 
GENERAL: Alert and interactive. ___ no acute distress.  
HEENT: NCAT. 
NECK: No cervical lymphadenopathy. No JVD.  
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No 
murmurs/rubs/gallops.  
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or 
rales. No increased work of breathing.    
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep 
palpation ___ all four quadrants. No organomegaly.  
EXTREMITIES:  Findings of advanced rheumatoid arthritis. Left 
hand with significant deformity, edema, erythema, ROM limited of 
L wrist ___ pain. R knee with significant erythema, swelling. R 
knee ROM intact. 
SKIN: Warm. Cap refill <2s. No rash.  
NEUROLOGIC: CN2-12 intact. ___ strength throughout. Normals 
ensation. Gait is normal. AOx3.  

DISCHARGE PHYSICAL EXAM:  
======================
PHYSICAL EXAM:
24 HR Data (last updated ___ @ 002)
    Temp: 98.9 (Tm 98.9), BP: 122/77 (100-134/67-78), HR: 72
(72-91), RR: 18, O2 sat: 100% (95-100), O2 delivery: RA    
GEN: Pleasant woman ___ NAD, laying ___ bed. 
___: Initially regular, tachycardic; then irregular, 
normocardic.
Normal s1/s2 no rubs/gallops. ___ systolic murmur loudest over
LLSB
PULM: Bilateral fine crackles to mid lung that have improved
since last week. No increased WOB. 
ABD: Soft, NT/ND, +BS
EXTR: Findings of advanced rheumatoid arthritis. L hand wrapped
___ soft bandage. ROM limited of L wrist ___ pain but stable. R
index finger MCP joint with minimal edema. Small R foot ganglion
cyst stable without edema/erythema. R knee bandage c/d/i, drain
with sanguineous fluid. 

 
Pertinent Results:
ADMISSION LABS:
==============
___ 12:35AM BLOOD WBC-20.1* RBC-4.71 Hgb-15.4 Hct-45.7* 
MCV-97 MCH-32.7* MCHC-33.7 RDW-13.8 RDWSD-48.6* Plt ___
___ 12:35AM BLOOD Neuts-64 Bands-16* Lymphs-14* Monos-6 
Eos-0* Baso-0 AbsNeut-16.08* AbsLymp-2.81 AbsMono-1.21* 
AbsEos-0.00* AbsBaso-0.00*
___ 12:35AM BLOOD Glucose-124* UreaN-13 Creat-0.9 Na-138 
K-4.2 Cl-103 HCO3-20* AnGap-15
___ 12:46AM BLOOD Lactate-1.9
___ 12:35AM BLOOD CRP-68.9*

PERTINENT LABS:
==============
___ 05:00AM JOINT FLUID ___ Polys-91* 
___ ___ 05:00AM JOINT FLUID Crystal-NONE
___ 09:03PM URINE CT-NEG NG-NEG
___ 12:35AM BLOOD CRP-68.9*
___ 07:34AM BLOOD CRP-26.9*
___ 05:53AM BLOOD CRP-3.3

___ 07:34AM BLOOD HBsAg-NEG HBsAb-NEG HBcAb-NEG HCV Ab-NEG 
(Rifampin Safety Check)

___ 05:20AM BLOOD TSH-2.1

DISCHARGE LABS:
==============
 
___ 06:02AM BLOOD WBC-11.4* RBC-3.94 Hgb-12.7 Hct-39.5 
MCV-100* MCH-32.2* MCHC-32.2 RDW-13.7 RDWSD-50.4* Plt ___
___ 06:02AM BLOOD Glucose-111* UreaN-14 Creat-0.9 Na-144 
K-3.8 Cl-103 HCO3-25 AnGap-16
___ 06:02AM BLOOD Calcium-8.7 Phos-3.2 Mg-2.0

MICROBIOLOGY:
==============
___ 12:29 pm SWAB      RIGHT KNEE JOINT FLUID . 
      Fluid should not be sent ___ swab transport media.  Submit 
fluids ___ a
      capped syringe (no needle), red top tube, or sterile cup. 

   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 

   WOUND CULTURE (Final ___: 
      STAPH AUREUS COAG +.    SPARSE GROWTH. 
         Susceptibility testing performed on culture # ___ 
___. 

   ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON DIRECT SMEAR. 

   ACID FAST CULTURE (Preliminary): 
      A swab is not the optimal specimen for recovery of 
mycobacteria or
      filamentous fungi.  A negative result should be 
interpreted with
      caution.  Whenever possible tissue biopsy or aspirated 
fluid should
      be submitted. 

   FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED. 

   POTASSIUM HYDROXIDE PREPARATION (Final ___: 
      Test cancelled by laboratory. 
      PATIENT CREDITED. 
      Inappropriate specimen collection (swab) for Fungal Smear 
(___). 

   ANAEROBIC CULTURE (Final ___:    NO ANAEROBES ISOLATED. 

__________________________________________________________
___ 12:29 pm JOINT FLUID     Site: KNEE
      RIGHT KNEE JOINT FLUID. 

   GRAM STAIN (Final ___: 
      2+   ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 

   FLUID CULTURE (Final ___: 
      STAPH AUREUS COAG +.    SPARSE GROWTH. 
         Susceptibility testing performed on culture # ___ 
___. 

   ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON DIRECT SMEAR. 

   ACID FAST CULTURE (Preliminary): 

   FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED. 

   POTASSIUM HYDROXIDE PREPARATION (Final ___: 
      TEST CANCELLED, PATIENT CREDITED. 
      if pulmonary Histoplasmosis, Coccidioidomycosis, 
Blastomycosis,
      Aspergillosis or Mucormycosis is strongly suspected, 
contact the
      Microbiology Laboratory (___). 
__________________________________________________________
___ 12:29 pm TISSUE      RIGHT KNEE TISSUE. 

   GRAM STAIN (Final ___: 
      2+   ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 

   TISSUE (Final ___:    NO GROWTH. 

   ANAEROBIC CULTURE (Final ___:    NO GROWTH. 

   ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON DIRECT SMEAR. 

   ACID FAST CULTURE (Preliminary): 

   FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED. 

   POTASSIUM HYDROXIDE PREPARATION (Final ___: 
      NO FUNGAL ELEMENTS SEEN. 
__________________________________________________________
___ 1:28 pm SWAB      LEFT HAND INFECTION. 

   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS AND SINGLY. 

   WOUND CULTURE (Final ___: 
      STAPH AUREUS COAG +.    SPARSE GROWTH. 
         Oxacillin RESISTANT Staphylococci MUST be reported as 
also
         RESISTANT to other penicillins, cephalosporins, 
carbacephems,
         carbapenems, and beta-lactamase inhibitor combinations. 

         RIFAMPIN should not be used alone for therapy. 

                              SENSITIVITIES: MIC expressed ___ 
MCG/ML
                      
_________________________________________________________
                             STAPH AUREUS COAG +
                             |   
CLINDAMYCIN-----------<=0.25 S
ERYTHROMYCIN----------   =>8 R
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------     4 R
OXACILLIN-------------   =>4 R
RIFAMPIN-------------- <=0.5 S
TETRACYCLINE----------   <=1 S
TRIMETHOPRIM/SULFA---- <=0.5 S
VANCOMYCIN------------     1 S

   ANAEROBIC CULTURE (Final ___:    NO ANAEROBES ISOLATED. 


   ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON DIRECT SMEAR. 

   ACID FAST CULTURE (Preliminary): 
      A swab is not the optimal specimen for recovery of 
mycobacteria or
      filamentous fungi.  A negative result should be 
interpreted with
      caution.  Whenever possible tissue biopsy or aspirated 
fluid should
      be submitted. 

   FUNGAL CULTURE (Preliminary): 
      NO FUNGUS ISOLATED. 
      A swab is not the optimal specimen for recovery of 
mycobacteria or
      filamentous fungi.  A negative result should be 
interpreted with
      caution.  Whenever possible tissue biopsy or aspirated 
fluid should
      be submitted. 
__________________________________________________________
___ 5:00 am JOINT FLUID     Site: KNEE      KNEE JOINT. 

   GRAM STAIN (Final ___: 
      2+   ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 

   FLUID CULTURE (Final ___: 
      Reported to and read back by ___ (___) AT 12:34 ___ 
___. 
      STAPH AUREUS COAG +.    SPARSE GROWTH. 
         Oxacillin RESISTANT Staphylococci MUST be reported as 
also
         RESISTANT to other penicillins, cephalosporins, 
carbacephems,
         carbapenems, and beta-lactamase inhibitor combinations. 

         RIFAMPIN should not be used alone for therapy. 
         CEFTAROLINE Susceptibility testing requested per ___ 
___
         (___) ___. 
         Susceptible to CEFTAROLINE test result performed by 
___. 
         Daptomycin Susceptibility testing requested per ___ 
___
         (___) ___ Daptomycin MIC OF 1 MCG/ML test result 
performed
         by Etest. 

                              SENSITIVITIES: MIC expressed ___ 
MCG/ML
                      
_________________________________________________________
                             STAPH AUREUS COAG +
                             |   
CLINDAMYCIN-----------<=0.25 S
DAPTOMYCIN------------       S
ERYTHROMYCIN----------   =>8 R
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------     4 R
OXACILLIN-------------   =>4 R
RIFAMPIN-------------- <=0.5 S
TETRACYCLINE----------   <=1 S
TRIMETHOPRIM/SULFA---- <=0.5 S
VANCOMYCIN------------     1 S
__________________________________________________________
___ 12:30 am BLOOD CULTURE      #1. 
   Blood Culture, Routine (Final ___:    NO GROWTH. 
___ 7:34 am BLOOD CULTURE
   Blood Culture, Routine (Final ___:    NO GROWTH. 
___ 7:40 am BLOOD CULTURE
   Blood Culture, Routine (Final ___:    NO GROWTH. 
___ 8:06 am BLOOD CULTURE      Source: Venipuncture. 
   Blood Culture, Routine (Pending):    No growth to date. 
__________________________________________________________

___ 5:00 am URINE
   URINE CULTURE (Final ___:    NO GROWTH. 

IMAGING:
==============
___ TTE
CONCLUSION:
- The left atrial volume index is mildly increased. The right 
atrium is moderately enlarged. There is normal left ventricular 
wall thickness with a normal cavity size. There is normal 
regional and global left ventricular systolic function. The 
visually estimated left ventricular ejection fraction is 55-60%. 
There is no resting left ventricular outflow tract gradient. 
Tissue Doppler suggests an increased left ventricular filling 
pressure (PCWP greater than 18 mmHg). Mildly dilated right 
ventricular cavity with normal free wall motion. The aortic 
sinus diameter is normal for gender with normal ascending aorta 
diameter for gender. The aortic arch diameter is normal with a 
normal descending aorta diameter. The aortic valve leaflets (3) 
appear structurally normal. No masses or vegetations are seen on 
the aortic valve. There is no aortic valve stenosis. There is no 
aortic regurgitation. The mitral valve leaflets appear 
structurally normal with no mitral valve prolapse. No masses or 
vegetations are seen on the mitral valve. There is mild [1+] 
mitral regurgitation. The pulmonic valve leaflets are normal. No 
masses/vegetations are seen on the pulmonic valve. The tricuspid 
valve leaflets appear structurally normal. No mass/ vegetation 
are seen on the tricuspid valve. There is mild to moderate 
[___] tricuspid regurgitation. There is mild pulmonary artery 
systolic hypertension. There is no pericardial effusion.
IMPRESSION: 
- No 2D echocardiographic evidence for endocarditis. Mildly 
dilated right ventricle. Normal global and regional 
biventricular systolic function. Mild mitral regurgitation. Mild 
to moderate tricuspid regurgitation. Elevated LVEDP and mild 
pulmonary hypertension.

___ CXR Portable
FINDINGS: 
- Mildly enlarged cardiomediastinal silhouette.  Mild 
calcification and tortuosity of the descending thoracic aorta.  
Slight rightward deviation of the trachea.  Opacification 
overlying the cardiac silhouette likely represents a large 
hiatal hernia.  The pulmonary vasculature is normal.  Extensive 
bilateral interstitial opacities likely represent diffuse 
interstitial lung disease.  Mild bibasilar atelectasis.  No 
focal consolidation.  A rounded opacification at the right lung 
apex likely represents an emphysematous bulla or a pneumatocele. 
 No pleural effusion or pneumothorax is seen.
IMPRESSION:
1.  Opacification overlying the cardiac silhouette likely 
represents a large hiatal hernia, however lateral view 
radiograph is recommended for confirmation.
2.  Extensive bilateral interstitial opacities likely represent 
diffuse interstitial lung disease.
3. A rounded opacification at the right lung apex likely 
represents an emphysematous bulla or a pneumatocele.

___ CXR Portable
IMPRESSION: 
- There has been interval placement of a right upper extremity 
PICC which terminates ___ the upper superior vena cava..
- The lungs are hyperinflated.  There is no focal consolidation, 
pleural effusion or pneumothorax.  There is a large hiatal 
hernia.  The cardiac silhouette is mildly enlarged.  There is no 
overt pulmonary edema.  No acute osseous abnormalities are 
identified.

___ XR Hand
FINDINGS: 
- There is severe erosion and osteolysis involving approximately 
1.5 cm of the distal ulna.  Extensive erosive change and 
remodeling of the proximal carpus with near complete destruction 
of the proximal carpal row and severe narrowing at the 
radiocarpal joint with extensive remodeling of the distal 
radius. There is likely ankylosis at the radiocarpal joint.
- Erosive change at the head of the proximal phalanx of the 
thumb and the head of the middle phalanx of the index finger is 
moderate.  There is volar and ulnar subluxation of the base of 
the proximal phalanx of the thumb relative to the head of the 
first metacarpal.
- Soft tissue mineralization projecting ___ the region of MCP 
joints could represent cement from prior reported MCP 
arthroplasties, less likely soft tissue mineralization. Severe 
erosions possibly ___ the setting of postsurgical change with 
complete loss of the heads and necks of the second-fourth 
metacarpals with severe volar and ulnar subluxation of the base 
of the proximal phalanges of the second-fourth digits.
- Severe erosive change at the PIP joints of the fourth and 
fifth digits.
IMPRESSION: 
1.  Per OMR, the patient has had prior MCP joint arthroplasties 
with apparent removal.  There is severe erosion and likely a 
component of post surgical change at the second-fourth 
metacarpals where there is extensive erosion and loss of bone at 
the head neck of the second-fifth metacarpals.  There is severe 
ulnar and volar subluxation of the base of the proximal 
phalanges relative to metacarpals.  No prior comparison study to 
assess for progression.
2.  Severe remodeling of the proximal carpal row with severe 
joint space narrowing at the radiocarpal joint with radiocarpal 
ankylosis and remodeling of the distal radius.
3.  Extensive erosion of the distal 1.5 cm of ulna.
4.  Additional erosions at the head of the proximal phalanx of 
the thumb, head of the middle phalanx of the second digit and 
the fourth and fifth PIP joints are severe.

 
Brief Hospital Course:
BRIEF HOSPITAL COURSE
=====================
Mrs. ___ is a ___ woman with past medical history of 
rheumatoid arthritis (on MTX/toclizumab/prednisone), bilateral 
hand joint replacements as well as bilateral total knee 
replacements, GERD, and osteoporosis, who presented to ___ ED 
from ___ on ___ with progression of left hand cellulitis 
despite outpatient keflex and new R knee swelling/pain. 

She was found to have GPC bacteremia and R knee septic 
arthritis, likely secondary to the hematogenous spread of her L 
hand cellulitis. Patient underwent both a R knee washout and 
liner replacement and left hand debridement and has transitioned 
to a 6 week course of IV vancomycin with additional PO rifampin.

On multiple occasions, the patient was noted to have an 
irregular heart rhythm both while ambulating and at rest. ECG 
revealed PACs and SVT, and she was placed on low-dose 
metropolol. 

ACUTE ISSUES:
============= 
# Prosthetic joint infection, left hand cellulitis, MRSA 
bacteremia 
Found to have MRSA bacteremia ___ BCx at ___, L hand 
cellulitis, and R knee PJI. She was started on IV vancomycin/CTX 
initially at ___, and was then transitioned to IV 
vancomycin/meropenem at ___. Wound cultures from left hand 
infection and blood cultures grew MRSA; meropenem was thus 
discontinued. She underwent L hand debridement on ___ and R knee 
debridement/liner replacement ___ and has transitioned to a 6 
week course of IV vancomycin with additional PO rifampin. Her 
most recent blood cultures (___) were negative, and her TTE did 
not show any signs of endocarditis. TEE was deferred as she 
given plan for 6 week course. Her home immunosuppressive RA 
regimen has been discontinued iso infection, although she is 
safe to restart her home celecoxib for pain management and was 
continued on prednisone 10mg qd. R knee drain removed right 
before discharge. PICC ___ place for IV antibiotics.

#Rheumatoid arthritis 
Per Dr. ___ rheumatologist), patient is safe to 
restart MTX and leucovorin ___ a few weeks. He also recommends 
holding off on toclizumab until finishing her outpatient 
antibiotic regimen and continuing celecoxib and prednisone 10 mg 
for pain management. Although Mrs. ___ was experiencing some 
joint pain, her most recent CRP was 3.3, which reassured us that 
her pain was likely due to overuse injury rather than an RA 
flare. ___ the case of an RA flare, only her prednisone dose 
should be increased. She has rheumatology follow up scheduled 
for ___. 

#Palpitations
Mrs. ___ complained of several episodes of palpitations and was 
noted to have SVT on telemetry. She has history of tachycardia 
that breaks with Valsalva maneuver. ECG and telemetry were 
indicative of PACs and SVT, possibly ___ the setting of 
deconditioning and sensitivity to exertion. She was started on 
metropolol 12.5 mg daily but should follow up with her 
outpatient cardiologist for further evaluation. Can consider 
uptitrating metoprolol for palpitations and SVT as an 
outpatient.

CHRONIC ISSUES
==============
#Bibasilar atelectasis concerning for interstitial lung disease
Mrs. ___ was noted to have bibasilar crackles on exam, though 
she was reassuringly not symptomatic nor hypoxemic. CXR on ___ 
showed bilateral interstitial opacities concerning for ILD 
secondary to her RA. 

#Foot cyst
Mrs. ___ was noted to have benign-appearing cyst ___ ___. ___ orthopedics was concerned for infection, but held off 
intervention given her more acute hand and knee infections. Per 
___ podiatry, the lesion is a ganglion cyst with no required 
intervention. 

Transitional issues:
====================
[ ] ANTIBIOTIC REGIMEN: Vancomycin 1000 mg IV Q 12H, Rifampin 
300 mg po q12h ___ - ___
[ ] LAB MONITORING RECOMMENDATIONS:
Weekly safety labs:
• CBC/diff
• BUN/ creat
• Vanco level
• ALT, AST
• CRP

ALL LAB RESULTS SHOULD BE SENT TO:
ATTN: ___ CLINIC - FAX: ___
___ MD

[ ] Please ensure f/u with Dr. ___ regarding status of 
prosthetic hand joints as scheduled for ___
[ ] Found to have evidence of ILD on chest imaging as above. 
Please ensure f/u with outpatient pulmonologist ___ ___. 
[ ] Please ensure f/u with PCP for palpitations/management of 
PVCs/SVT. Consider uptitration of PO metoprolol as an 
outpatient.
[ ] Please ensure f/u with ___ podiatry for foot cyst
[ ] Please ensure f/u with rheumatology for re-initiation of 
MTX/leucovorin/toclizumab as appropriate
[ ] Pain management with celecoxib and tylenol 
[ ] ___ the case of an RA flare, only her prednisone dose should 
be increased per outpatient rheumatologist 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Leucovorin Calcium 10 mg PO 1X/WEEK (___) 
2. Omeprazole 20 mg PO DAILY 
3. Celecoxib 200 mg oral BID 
4. Methotrexate 25 mg PO QSUN 
5. PredniSONE 10 mg PO DAILY 
6. Tocilizumab AS DIRECTED mg IV INFUSION 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q8H:PRN Pain - Mild/Fever  
2.  Metoprolol Succinate XL 12.5 mg PO DAILY  
3.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth q4hr Disp #*12 Tablet 
Refills:*0 
4.  RifAMPin 300 mg PO Q12H  
5.  Vancomycin 1000 mg IV Q 12H  
6.  Celecoxib 200 mg oral BID  
7.  Omeprazole 20 mg PO DAILY  
8.  PredniSONE 10 mg PO DAILY  
9. HELD- Leucovorin Calcium 10 mg PO 1X/WEEK (___)  This 
medication was held. Do not restart Leucovorin Calcium until 
speaking with your rheumatologist
10. HELD- Methotrexate 25 mg PO QSUN  This medication was held. 
Do not restart Methotrexate until speaking with your 
rheumatologist
11. HELD- Tocilizumab AS DIRECTED mg IV INFUSION  This 
medication was held. Do not restart Tocilizumab until speaking 
with your rheumatologist

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
#MRSA Bacteremia
#Left Hand Skin and Soft Tissue Infection
#Right Prosthetic Knee Infection

SECONDARY DIAGNOSIS
#Rheumatoid Arthritis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,  
 
 WHY WERE YOU ADMITTED TO THE HOSPITAL?
 - You were admitted to the hospital because you had an 
infection ___ your hand and knee. 

 WHAT HAPPENED WHILE YOU WERE ___ THE HOSPITAL?  
 - You were treated with IV antibiotics which were continued at 
discharge
 - You underwent procedures to clear the infection from your 
hand and knee
 - You improved and were ready to leave the hospital.  

 WHAT DO YOU NEED TO DO WHEN YOU LEAVE THE HOSPITAL?  
 - Please take all of your medications as prescribed and go to 
your follow up appointments with your doctors ___ below)   
 - Seek medical attention if you have new or concerning symptoms 


 It was a pleasure participating ___ your care. We wish you the 
best!
 
 - Your ___ Care Team  
 
Followup Instructions:
___